US08084448B2
7-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-azepan-2-one
To a cooled solution of chlorosulfonyl isocyanate (315 mg, 2.22 mmol) in CH2Cl2 (8 mL) is added dropwise a solution of t-butanol (165 mg, 2.22 mmol) in CH2Cl2 (1 mL). The solution is stirred at RT for 45 min and re-cooled, then a solution of [2-benzyloxy-4-(7-oxo-azepan-2-ylmethyl)-phenylamino]-acetic acid methyl ester (600 mg, 1.48 mmol) and triethylamine (252 mg, 2.52 mmol) in CH2Cl2 (2 mL) is added dropwise. The mixture is stirred at RT for 3 h then washed with water. The organic phase is dried over Na2SO4 and the solvent is removed under reduced pressure. The residual oil is purified by flash chromatography using EtOAc/CH2Cl2 (1:1) as eluent to give the title compound.

reactant | chlorosulfonyl isocyanate | 2.22 mmol, 315 mg | ClS(=O)(=O)N=C=O | CClNO3S
reactant | t-butanol | 2.22 mmol, 165 mg | C(C)(C)(C)O | C4H10O
reactant | [2-benzyloxy-4-(7-oxo-azepan-2-ylmethyl)-phenylamino]-acetic acid methyl ester | 1.48 mmol, 600 mg | COC(CNC1=C(C=C(C=C1)CC1NC(CCCC1)=O)OCC1=CC=CC=C1)=O | C23H28N2O4
reactant | triethylamine | 2.52 mmol, 252 mg | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 7-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-benzyl]-azepan-2-one | OC=1C=C(CC2CCCCC(N2)=O)C=CC1N1S(NC(C1)=O)(=O)=O | C15H19N3O5S
